US08703758B2
C) 4-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)phenyl acetate
To a solution of 4-hydroxyphenyl acetate (60.8 g), tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate (70 g) and triphenylphosphine (105 g) in THF (300 mL) was added dropwise a solution (1.9 M, 210 mL) of diisopropyl azodicarboxylate in toluene at 0° C., and the mixture was stirred at room temperature for 16 hr. The reaction mixture was concentrated under reduced pressure, the residue was suspended in diethyl ether, and the precipitate was removed by filtration. The filtrate was concentrated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate), and then by silica gel chromatography (NH, hexane/ethyl acetate) to give the title compound (70.9 g).

reactant | 4-hydroxyphenyl acetate | 60.8 g | C(C)(=O)OC1=CC=C(C=C1)O | C8H8O3
reactant | tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate | 70 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triphenylphosphine | 105 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.9 M, 210 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)phenyl acetate | 70.9 g | C(C)(=O)OC1=CC=C(C=C1)OC[C@H](C)NC(=O)OC(C)(C)C | C16H23NO5
